US05112841
(1) 3-Phenyl-5-isoxazolone
In accordance with the known process [Canadian Journal of Chemistry, 4s, 1371 (1970)], 154 g (0.8 mol) of ethyl benzoylacetoacetate were dissolved in 1 l of acetic acid, and 55.7 g (0.8 mol) of hydroxylamine hydrochloride were then added to the resulting solution, followed by heating under stirring at 100° C. for 5 hours. After the solvent was distilled off, ethyl alcohol was added to the residue to precipitate crystals. The crystals were collected and then washed with ethyl alcohol, whereby the title compound was obtained as colorless crystals.

reactant | ethyl benzoylacetoacetate | 0.8 mol, 154 g | C(C1=CC=CC=C1)(=O)CC(CC(=O)OCC)=O | C13H14O4
reactant | hydroxylamine hydrochloride | 0.8 mol, 55.7 g | Cl.NO
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 3-Phenyl-5-isoxazolone | C1(=CC=CC=C1)C=1NOC(C1)=O | C9H7NO2
